US07846929B2
2-Chloro-4-morpholinothieno[2,3-d]pyrimidine (500 mg) was cooled to −78° C. in 50 mL of THF before adding 1.3 eq of a 2.5M solution of nBuLi in hexanes. The reaction was stirred at −78° C. for 30 minutes before warming to −40° C. for several minutes to allow for complete formation of the lithium anion. The reaction was then re-cooled to −78° C. and carbon dioxide gas evolved from dry ice was bubbled in via cannula to the reaction solution for 1 hour. The reaction was then slowly warmed to 0° C. over 30 minutes and the THF was concentrated by rotovap. The reaction was then quenched with water and extracted with Ethyl Acetate to remove any 2-chloro-4-morpholinothieno[2,3-d]pyrimidine. The aqueous layer was then brought to pH of 2-3 by adding concentrated HCl. The resultant solid that crashed out of the aqueous layer was then collected by Buchner funnel, rinsed with water and dried overnight under vacuum to yield 494 mg of 2-chloro-4-morpholinothieno[2,3-d]pyrimidine-6-carboxylic acid.

reactant | 2-Chloro-4-morpholinothieno[2,3-d]pyrimidine | 500 mg | ClC=1N=C(C2=C(N1)SC=C2)N2CCOCC2 | C10H10ClN3OS
reactant | nBuLi | [Li]CCCC
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-morpholinothieno[2,3-d]pyrimidine-6-carboxylic acid | 494 mg | ClC=1N=C(C2=C(N1)SC(=C2)C(=O)O)N2CCOCC2 | C11H10ClN3O3S
